US07417060B2
To a mixture of 2-(4-bromophenyl)-N-[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]acetamide (160 g) in tetrahydrofuran (1.6 l) was added dropwise 2M borane-dimethylsulfide complex in tetrahydrofuran (716 ml) below 0° C. over 5 hours. The mixture was warmed up to 60° C. and stirred at the same temperature for 3 hours. The reaction mixture was cooled in ice bath (below 5° C.). To the cooled reaction mixture were added methanol and conc. hydrochloric acid (hydrogen gas was evolved). The mixture was heated and stirred at 60° C. for 1 hour, stood overnight at ambient temperature. The mixture was concentrated in vacuo and water was removed as azeotrope with butanol (480 ml). The concentrate was pulverized with isopropyl ether (1.5l). The precipitate was collected by filtration, washed with isopropyl ether and dried in vacuo to give (1R)-2-[[2-(4-bromophenyl)ethyl]amino]-1-(3-pyridyl)ethanol dihydrochloride (226 g).

reactant | 2-(4-bromophenyl)-N-[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]acetamide | 160 g | BrC1=CC=C(C=C1)CC(=O)NC[C@@H](C=1C=NC=CC1)O | C15H15BrN2O2
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1.6 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 716 ml | O1CCCC1 | C4H8O
product | (1R)-2-[[2-(4-bromophenyl)ethyl]amino]-1-(3-pyridyl)ethanol dihydrochloride | 226 g | Cl.Cl.BrC1=CC=C(C=C1)CCNC[C@H](O)C=1C=NC=CC1 | InChI=1S/C15H17BrN2O.2ClH/c16-14-5-3-12(4-6-14)7-9-18-11-15(19)13-2-1-8-17-10-13;;/h1-6,8,10,15,18-19H,7,9,11H2;2*1H/t15-;;/m0../s1
